US08440665B2
A mixture of 4-(4-cyclopropyl-1H-imidazol-1-yl)-N-(5-(hydrazinecarbonyl)thiophen-3-yl)picolinamide (130 mg, 0.35 mmol) and toluene (2 mL) were added to a sealable vial. N,N-dimethylformamide/N,N-dimethylacetamide complex (120 μL, 0.88 mmol) was added and the reaction was stirred for 5 minutes. (S)-3-methylbutan-2-amine (170 μL, 1.4 mmol), and acetic acid (20 μL, 0.35 mmol) were added, and the reaction was heated in a microwave reactor at 150° C. for 30 minutes. The reaction was concentrated and purified by RP-HPLC to provide 65 mg (42%) of (S)-4-(4-cyclopropyl-1H-imidazol-1-yl)-N-(5-(4-(3-methylbutan-2-yl)-4H-1,2,4-triazol-3-yl)thiophen-3-yl)picolinamide as a white solid.

reactant | 4-(4-cyclopropyl-1H-imidazol-1-yl)-N-(5-(hydrazinecarbonyl)thiophen-3-yl)picolinamide | 0.35 mmol, 130 mg | C1(CC1)C=1N=CN(C1)C1=CC(=NC=C1)C(=O)NC1=CSC(=C1)C(=O)NN | C17H16N6O2S
reactant | (S)-3-methylbutan-2-amine | 1.4 mmol, 170 μL | CC([C@H](C)N)C | C5H13N
reactant | acetic acid | 0.35 mmol, 20 μL | C(C)(=O)O | C2H4O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-4-(4-cyclopropyl-1H-imidazol-1-yl)-N-(5-(4-(3-methylbutan-2-yl)-4H-1,2,4-triazol-3-yl)thiophen-3-yl)picolinamide | 65 mg, 42% | C1(CC1)C=1N=CN(C1)C1=CC(=NC=C1)C(=O)NC1=CSC(=C1)C1=NN=CN1[C@@H](C)C(C)C | C23H25N7OS
